US06239074B1
4-Chloro-3-(1,3-dioxolan-2-yl)-phenyl isocyanate
2.0 g of 4-chloro-3-(1,3-dioxolan-2-yl)-aniline in 25 ml of ethyl acetate were added to a solution of 3.0 g of trichloromethyl chloroformate in 50 ml of toluene at about 20-25° C. This mixture was stirred for 2 hours at 20-25° C. and then for a further 5 hours at the reflux temperature. Thereafter, the reaction mixture was evaporated down and the residue was dried under greatly reduced pressure.

reactant | 4-chloro-3-(1,3-dioxolan-2-yl)-aniline | 2.0 g | ClC1=C(C=C(N)C=C1)C1OCCO1 | C9H10ClNO2
reactant | trichloromethyl chloroformate | 3.0 g | ClC(=O)OC(Cl)(Cl)Cl | C2Cl4O2
solvent | ethyl acetate | 25 ml | C(C)(=O)OCC | C4H8O2
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | 4-Chloro-3-(1,3-dioxolan-2-yl)-phenyl isocyanate | ClC1=C(C=C(C=C1)N=C=O)C1OCCO1 | C10H8ClNO3
